*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/4.70e-04[uF]/630[V]
* Murata P/N :GCM21A5C2J471JX01
* Property : C = 4.70e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2J471JX01 Port1 Port2
C01 Port1 N01 4.70e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 1.95e-10
R03 N02 N03 4.27e-04
C04 N03 N04 2.92e-08
R04 N03 N04 2.12e+01
L05 N04 N05 5.32e-11
R05 N04 N05 1.11e+00
L06 N05 N06 1.22e-10
R06 N05 N06 5.18e-02
C07 N06 N07 3.31e-09
L07 N06 N07 1.38e-11
R07 N06 N07 4.89e-01
C08 N07 N08 5.15e-10
L08 N07 N08 3.29e-11
R08 N07 N08 1.15e+00
C09 N08 N09 4.74e-10
L09 N08 N09 9.52e-12
R09 N08 N09 3.38e-01
C10 N09 Port2 1.14e-12
L10 N09 Port2 2.76e-10
R10 N09 Port2 1.17e+02
.ENDS GCM21A5C2J471JX01
